US04803150
A-2. Preparation of 1-(3,5-Dicarboxyphenyl)-4-(4-dimethylaminobenzylidene)-3-methyl-2-pyrazolin-5-one (Dye 6/A)
A slurry composed of 1-(3,5-dicarboxyphenyl)-3-methyl-2-pyrazoline-5-one (44.6 grams, 0.17 mol), 4-dimethylaminobenzaldehyde (26.9 grams, 0.18 mol) and EtOH (500 mL) was heated at reflux for three hours. The reaction mixture was chilled in ice and the resulting crude orange product was isolated by filtration and washed with EtOH (200 mL). The product was purified by three repetitive slurries of the solid in acetone (1.4 1) at reflux and filtering to recover the dye. The mp of the product was above 310° C. The NMR and IR spectra were consistent with the structure assigned. The C, H and N elemental analyses were in agreement with those calculated for the empirical formula for the dye.

reactant | 1-(3,5-dicarboxyphenyl)-3-methyl-2-pyrazoline-5-one | 0.17 mol, 44.6 grams | C(=O)(O)C=1C=C(C=C(C1)C(=O)O)N1N=C(CC1=O)C | C12H10N2O5
reactant | 4-dimethylaminobenzaldehyde | 0.18 mol, 26.9 grams | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | EtOH | 500 mL | CCO | C2H6O
product | 1-(3,5-Dicarboxyphenyl)-4-(4-dimethylaminobenzylidene)-3-methyl-2-pyrazolin-5-one | C(=O)(O)C=1C=C(C=C(C1)C(=O)O)N1N=C(C(C1=O)=CC1=CC=C(C=C1)N(C)C)C | C21H19N3O5
